US04547506
2-[N-(2-aminoethyl)-N-benzylamino]pyridine (0.95 g) and 2-nitroamino-5-(6-methylpyrid-3-ylmethyl)pyrimid-4-one (0.91 g) were heated together under reflux in pyridine (10 ml) for 20 hr. After stripping, the residue was triturated with ether and recrystallised from methanol to give 2-[2-(N-benzyl-N-pyrid-2-ylamino)ethylamino]-5-(6methylpyrid-3-ylmethyl) pyrimid-4-one, 1.02 g (68%) mp 178°-82° C.

reactant | 2-[N-(2-aminoethyl)-N-benzylamino]pyridine | 0.95 g | NCCN(CC1=CC=CC=C1)C1=NC=CC=C1 | C14H17N3
reactant | 2-nitroamino-5-(6-methylpyrid-3-ylmethyl)pyrimid-4-one | 0.91 g | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC=1C=NC(=CC1)C | C11H11N5O3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 2-[2-(N-benzyl-N-pyrid-2-ylamino)ethylamino]-5-(6methylpyrid-3-ylmethyl) pyrimid-4-one | C(C1=CC=CC=C1)N(C1=NC=CC=C1)CCNC1=NC=C(C(N1)=O)CC=1C=NC(=CC1)C | C25H26N6O
